US07947834B2
0.11 g of tert-butyl 4-difluoromethylene-3,4-dihydro-2H-quinoline-1-carbamate in 10 ml of dichloromethane is introduced into a round-bottomed flask equipped with a magnetic stirrer. 6 ml of a 4N solution of hydrochloric acid in dioxane are added. After stirring at ambient temperature for 6 h, the reaction medium is concentrated under vacuum. 0.07 g of 4-difluoromethylene-1,2,3,4-tetrahydroquinoline is obtained.

reactant | tert-butyl 4-difluoromethylene-3,4-dihydro-2H-quinoline-1-carbamate | 0.11 g | FC(=C1CCN(C2=CC=CC=C12)NC(=O)OC(C)(C)C)F | C15H18F2N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-difluoromethylene-1,2,3,4-tetrahydroquinoline | 0.07 g | FC(=C1CCNC2=CC=CC=C12)F | C10H9F2N
